Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.8798830059
[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.57005170569
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8]>>[C:5]#[C:6][O:7][H:8].[H:1][C:2]#[C:3][O:4],2.68494878696
[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],0.86721406361
[H:9].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:10][H:11]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][H:11],-1.26989612904
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],3.63674794684
[H:6].[O:1][C:2]([H:3])([H:4])[C:5]#[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],-1.97205958906
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],7.607584794199999
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.29221479404
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:8][C:9]([H:10])([H:11])[H:12].[O:6][H:7]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.74854996682
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:7],2.00646578914
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-6.187572759680001
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],8.34233054
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.15102951255
[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[H:7],1.7886360558400003
[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:8]([H:9])([H:10])[H:11],3.28919719165
[C:1]#[C:2][C:3]([H:4])[C:5](=[C:6])[O:8][H:9].[H:7]>>[C:1]#[C:2][C:3]([H:4])[C:5](=[C:6][H:7])[O:8][H:9],-4.3870221679400005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][H:3],3.74487191764
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13],3.76720304756
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:12][H:13].[H:11]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12][H:13],-1.48178912331
[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.61070192304
[H:1][C:2]([H:3])[C:4]#[C:5][H:6].[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12],-2.38727528912
[C:1]=[C:2]([H:3])[C:4](=[O:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C:4](=[O:5])[O:6][C:7]([H:8])[H:9].[H:10],4.46890664495
[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1]=[C:2]([C:3][H:4])[C:5]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],3.89111891091
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9],-4.93838125972
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:10]([H:11])([H:12])[H:13].[H:9],4.88217128421
[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6],2.07492166366
[C:1]#[C:2][C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1][C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[O:4]=[O:5],1.18838314936
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],1.4945301454100002
